US09302989B2
N-(4-{[1-(2-methylpropyl)piperidin-4-yl]oxy}phenyl)-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide
The title compound was prepared as described in Example 429, substituting isobutyraldehyde for isobutyraldehyde and N-(4-(piperidin-4-yloxy)phenyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxamide for N-(4-(1,2,3,6-tetrahydropyridin-4-yl)phenyl)isoindoline-2-carboxamide. 1H NMR (400 MHz, Pyridine-d5. Temp=90° C.) δ ppm 8.49-8.60 (m, 2H) 8.09 (s, 1H) 7.68-7.80 (m, 2H) 7.10 (d, J=5.19 Hz, 1H) 6.96-7.04 (m, 2H) 4.85 (s, 4H) 4.21-4.28 (m, 1H) 2.65-2.79 (m, 2H) 2.13-2.24 (m, 2H) 2.06 (m, 2H) 1.98 (s, 2H) 1.77-1.88 (m, 2H) 1.67-1.77 (m, 1H) 0.89 (d, J=6.71 Hz, 6H); MS (APCI(+)) m/e 395 (M+H)+.

reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
reactant | N-(4-(piperidin-4-yloxy)phenyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxamide | N1CCC(CC1)OC1=CC=C(C=C1)NC(=O)N1CC=2C=NC=CC2C1 | C19H22N4O2
reactant | N-(4-(1,2,3,6-tetrahydropyridin-4-yl)phenyl)isoindoline-2-carboxamide | N1CCC(=CC1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C20H21N3O
product | N-(4-{[1-(2-methylpropyl)piperidin-4-yl]oxy}phenyl)-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide | CC(CN1CCC(CC1)OC1=CC=C(C=C1)NC(=O)N1CC=2C=NC=CC2C1)C | C23H30N4O2
